US05744426
2-Chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)propenoic acid (Ib.001)
85 ml of trifluoroacetic acid were added dropwise to a solution of 34.4 g (70 mmol) of tert-butyl 2-chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)-propenoate in 85 ml of dichloromethane. After 3 hours the mixture was concentrated. The residue was triturated with n-hexane, then filtered off and dried. Yield: 19.9 g.

reactant | trifluoroacetic acid | 85 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)-propenoate | 70 mmol, 34.4 g | ClC(C(=O)OC(C)(C)C)=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)Cl)Cl | C18H16Cl4F2N2O3
solvent | dichloromethane | 85 ml | ClCCl | CH2Cl2
product | 2-Chloro-3-(2,4-dichloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)phenyl)propenoic acid | ClC(C(=O)O)=CC1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)Cl)Cl | C14H8Cl4F2N2O3
